US09328118B2
Zinc (64 mg), 2-(di-tert-butylphosphino)biphenyl (163 mg), zinc cyanide (230 mg), and palladium (II) trifluoroacetate (81 mg) were added to a DMAc (16.5 mL) solution of 2-chloro-6-{4-[(4-methoxybenzyl)oxy]-3-(trifluoromethyl)phenyl}-9-methyl-9H-purine (1.1 g) at room temperature in an argon atmosphere, and the mixture was stirred at 100° C. for 3 hours. After the reaction mixture was cooled to room temperature, water was added thereto, then extraction thereof was performed using EtOAc, and the extract was washed with water. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=1:1 to 1:4), whereby a mixture of 6-{4-[(4-methoxybenzyl)oxy]-3-(trifluoromethyl)phenyl}-9-methyl-9H-purine-2-carbonitrile and 6-[4-hydroxy-3-(trifluoromethyl)phenyl]-9-methyl-9H-purine-2-carbonitrile (502 mg) was obtained.

reactant | 2-(di-tert-butylphosphino)biphenyl | 163 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | DMAc | 16.5 mL | CC(=O)N(C)C | C4H9NO
reactant | 2-chloro-6-{4-[(4-methoxybenzyl)oxy]-3-(trifluoromethyl)phenyl}-9-methyl-9H-purine | 1.1 g | ClC1=NC(=C2N=CN(C2=N1)C)C1=CC(=C(C=C1)OCC1=CC=C(C=C1)OC)C(F)(F)F | C21H16ClF3N4O2
catalyst | Zinc | 64 mg | [Zn] | Zn
catalyst | zinc cyanide | 230 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium (II) trifluoroacetate | 81 mg | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
solvent | water | O | H2O
product | 6-[4-hydroxy-3-(trifluoromethyl)phenyl]-9-methyl-9H-purine-2-carbonitrile | 502 mg | OC1=C(C=C(C=C1)C1=C2N=CN(C2=NC(=N1)C#N)C)C(F)(F)F | C14H8F3N5O
